US09145411B2
To a 50 mL round bottom flask, 4-(2-chloro-6-fluoro-7-(3-(methylsulfonyl)phenyl)quinazolin-4-yl)morpholine (0.1 g, 0.0002 mol), (2-((tert-butoxycarbonyl)amino)pyrimidin-5-yl)boronic acid (0.085 g, 0.0003 mol), cesium carbonate (0.192 g, 0.0005 mol), toluene (5 mL), ethanol (5 mL) and water (2 mL) were added. The reaction vessel was degassed with N2 for 5-10 minutes. To the same reaction mixture, Pd(PPh3)2Cl2 (0.008 g, 0.000012 mol) was added and again degassed with N2 for 5-10 minutes. The reaction mixture was stirred at 75° C. for 3 hours. The reaction mixture was cooled and diluted with chloroform. The organic layer was washed with water, brine and dried over sodium sulfate. The solvent was removed under the reduced pressure to afford the crude product. The crude product was purified by column chromatography (60-120 silica gel, 50% ethyl acetate in n-hexane) to yield tert-butyl (5-(6-fluoro-7-(3-(methylsulfonyl)phenyl)-4-morpholinoquinazolin-2-yl)pyrimidin-2-yl)carbamate [0.06 g, 43%]. LC-MS (ESI): Calculated mass: 580.1; Observed mass [M+H]+: 581.3 (RT=1.52 min).

reactant | 4-(2-chloro-6-fluoro-7-(3-(methylsulfonyl)phenyl)quinazolin-4-yl)morpholine | 0.0002 mol, 0.1 g | ClC1=NC2=CC(=C(C=C2C(=N1)N1CCOCC1)F)C1=CC(=CC=C1)S(=O)(=O)C | C19H17ClFN3O3S
reactant | (2-((tert-butoxycarbonyl)amino)pyrimidin-5-yl)boronic acid | 0.0003 mol, 0.085 g | C(C)(C)(C)OC(=O)NC1=NC=C(C=N1)B(O)O | C9H14BN3O4
reactant | cesium carbonate | 0.0005 mol, 0.192 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)2Cl2 | 0.000012 mol, 0.008 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 2 mL | O | H2O
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | tert-butyl (5-(6-fluoro-7-(3-(methylsulfonyl)phenyl)-4-morpholinoquinazolin-2-yl)pyrimidin-2-yl)carbamate | 0.06 g, 43% | FC=1C=C2C(=NC(=NC2=CC1C1=CC(=CC=C1)S(=O)(=O)C)C=1C=NC(=NC1)NC(OC(C)(C)C)=O)N1CCOCC1 | C28H29FN6O5S
